US05530019
Heptanoyl chloride was added to a suspension of aluminum chloride in dichloromethane. The mixture was stirred at room temperature for 30 minutes. To the mixture was added a solution of indole in dichloromethane. The mixture was stirred at room temperature for 1 hour and poured into a mixture of hydrochloric acid and ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate and evaporated. The residue was crystallized from diisopropyl ether to give 3-heptanoylindole as a white powder.

reactant | Heptanoyl chloride | C(CCCCCC)(=O)Cl | C7H13ClO
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-heptanoylindole | C(CCCCCC)(=O)C1=CNC2=CC=CC=C12 | C15H19NO
